US07951828B1
Step 2: Production of methyl N-(5-cyano-2-pyridyl)-N-[4-[5-(3,5-dichlorophenyl)-5-trifluoromethyl-4,5-dihydro-isoxazole-3-yl]-2-methylbenzoyl]carbamate
In a suspension of 0.03 g of 55% oily sodium hydride suspended in 3 mL of tetrahydrofuran, a solution of 0.26 g of N-(5-cyano-2-pyridyl)-4-[5-(3,5-dichlorophenyl)-5-trifluoromethyl-4,5-dihydro-isoxazole-3-yl]-2-methyl benzoic acid amide in 3 mL of tetrahydrofuran was added under cooling with ice and with stirring and continued to stir at the same temperature for 10 minutes. After ceasing the generation of hydrogen gas, 0.07 g of methyl chloroformate was added, ice bath was removed and continued to stir further for 7 hours. After the completion of the reaction, the reaction mixture was poured in 10 mL of ice water, extracted with ethyl acetate (10 mL×2), the organic phase was dehydrated with and dried over saturated sodium chloride aqueous solution and then anhydrous sodium sulfate, and the solvent was distilled off under reduced pressure. The residue was purified with silica gel column chromatography that was eluated with ethyl acetate-hexane (1:2) to obtain 0.24 g of the aimed product as colorless resinous substance.

reactant | sodium hydride | 0.03 g | [H-].[Na+]
reactant | N-(5-cyano-2-pyridyl)-4-[5-(3,5-dichlorophenyl)-5-trifluoromethyl-4,5-dihydro-isoxazole-3-yl]-2-methyl benzoic acid amide | 0.26 g | C(#N)C=1C=CC(=NC1)NC(C1=C(C=C(C=C1)C1=NOC(C1)(C(F)(F)F)C1=CC(=CC(=C1)Cl)Cl)C)=O | C24H15Cl2F3N4O2
reactant | hydrogen | [H][H] | H2
reactant | methyl chloroformate | 0.07 g | ClC(=O)OC | C2H3ClO2
solvent | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
product | methyl N-(5-cyano-2-pyridyl)-N-[4-[5-(3,5-dichlorophenyl)-5-trifluoromethyl-4,5-dihydro-isoxazole-3-yl]-2-methylbenzoyl]carbamate | 0.24 g | C(#N)C=1C=CC(=NC1)N(C(OC)=O)C(C1=C(C=C(C=C1)C1=NOC(C1)(C(F)(F)F)C1=CC(=CC(=C1)Cl)Cl)C)=O | C26H17Cl2F3N4O4
